US05786379
(c) Preparation of a-ethynyl-3-(1-adamantyl)-4-methoxyethoxymethoxyphenylmethanol
4.7 g (10.5 mmol) of a-trimethylsilylethynyl-3-(1-adamantyl)-4-methoxyethoxymethoxyphenylmethanol and 50 ml of THF were introduced into a round-bottomed flask and 11.4 ml (12.6 mmol) of tetrabutylammonium fluoride solution (1.1M in THF) was added dropwise. The reaction medium was stirred at room temperature for one hour and was then poured into water and extracted with ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with a mixture of ethyl acetate and heptane (30/70). After evaporation of the solvents, 2.5 g (64%) of a-ethynyl-3-(1-adamantyl)-4-methoxyethoxymethoxyphenyl-methanol were recovered.

reactant | a-trimethylsilylethynyl-3-(1-adamantyl)-4-methoxyethoxymethoxyphenylmethanol | 10.5 mmol, 4.7 g | C[Si](C#CC(O)C1=CC(=C(C=C1)OCOCCOC)C12CC3CC(CC(C1)C3)C2)(C)C | C26H38O4Si
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 12.6 mmol, 1.1M, 11.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | a-ethynyl-3-(1-adamantyl)-4-methoxyethoxymethoxyphenylmethanol | C(#C)C(COC)OCOC1=C(C=C(C=C1)CO)C12CC3CC(CC(C1)C3)C2 | C23H30O4
